US05011975
Then, 12.64 g of allyl tritylsulfide was dissolved in a solvent mixture consisting of 130 ml of t-butanol and 70 ml of tetrahydrofuran, and 9.0 g of pottasium tert. -butoxide was added to the resulting solution at room temperature with stirring, and the mixture was further stirred for 15 hours. The solvents were removed from the reaction mixture at a temperature of below 40° C. by distillation under reduced pressure, and then 200 ml of water and 400 ml of benzene were added to the residue to extract. The benzene layer was washed with water and dried over anhydrous magnesium sulfate. Then, the solvent was removed therefrom by distillation under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with n-hexane, whereby 5.0 g of trans 1-propenyl tritylsulfide (melting point: 105°-106° C.) was obtained as colorless crystal.

reactant | allyl tritylsulfide | 12.64 g | C(C=C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H20S
reactant | t-butanol | 130 ml | C(C)(C)(C)O | C4H10O
reactant | tert. -butoxide | 9.0 g | CC(C)([O-])C
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | trans 1-propenyl tritylsulfide | 5.0 g | C(=C\C)/C1(C(C2=CC=CC=C2)(C2=CC=CC=C2)SC(C2(CC=CC=C2)\C=C\C)(C2=CC=CC=C2)C2=CC=CC=C2)CC=CC=C1 | C44H42S
